US07612114B2
6-{2-{[5-(2-Azepan-1-ylethoxy)pyridin-2-ylmethyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and sodium 5-(2-azepan-1-ylethoxy)pyridine-2-carboxylate (60 mg) according to an analogous synthetic method to Example 152, the title compound (16 mg) was obtained.

reactant | pivalic acid 6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | sodium 5-(2-azepan-1-ylethoxy)pyridine-2-carboxylate | 60 mg | N1(CCCCCC1)CCOC=1C=CC(=NC1)C(=O)[O-].[Na+]
product | 6-{2-{[5-(2-Azepan-1-ylethoxy)pyridin-2-ylmethyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 16 mg | N1(CCCCCC1)CCOC=1C=CC(=NC1)CN(C1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)O)CC | C34H45N3O4
